US04368311
1.1 Acetylacetone n-propylimine
0.1 Mole (5.9 g.) n-propylamine is mixed with 0.1 mole (10 g.) acetylacetone. An exothermal reaction takes place in which a yellowish, liquid ketimine is obtained which, even after comparatively lengthy storage, does not give a precipitate.

reactant | n-propylamine | 0.1 Mole, 5.9 g | C(CC)N | C3H9N
reactant | acetylacetone | 0.1 mole, 10 g | C(C)(=O)CC(C)=O | C5H8O2
product | Acetylacetone n-propylimine | C(CC)N=C(C)CC(C)=O | C8H15NO
